Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],5.25894197696
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[H:11],0.546516758209
[H:13].[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.2753623945
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.30613096206
[H:1][C:2][C:11]([C:6]([C:4](=[O:3])[H:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-3.18102245708
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.35524320661
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.80063895353
[C:1]=[C:2]([H:3])[C:4](=[C:5])[O:6][H:7]>>[C:1]#[C:2][H:3].[C:4](#[C:5])[O:6][H:7],2.4048077292700003
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.85696467969
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.75380334847
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.67885638713
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.40557602356
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.31484666688
[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4][O:5][H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.271550464931
[C:2]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:6]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.862466657509999
[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.35600708646
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.63043781818
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],2.81116508033
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],3.15906792077
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:6][H:7].[H:1][C:2]=[C:3]([H:4])[C:5][C:8]([H:9])([H:10])[O:11][H:12],8.19112887068
[C:5]#[C:6][H:7].[O:1]=[C:2]=[C:3]([H:4])[O:8][H:9]>>[O:1]=[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],-3.44636245331
[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.87531352156
[O:1]=[C:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],0.55062104403
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-3.90309524571
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.88518463108
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.54447921215
[H:7].[O:1][O:2][C:3]([H:4])[C:5]#[C:6]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],-5.06992902896
[C:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3](#[C:4][H:5])[O:6][H:7],1.05573064842
[H:1][C:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-6.09563215502
